US08236835B2
Preparation of 2-amino-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide
To a solution of 2-amino-4-methylthiazole-5-carboxylic acid (4.20 g, 26.0 mmol) in anhydrous N,N-dimethylformamide (100 mL) was added 1-hydroxybenzotriazole (9.30 g, 69.0 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (6.60 g, 34.0 mmol), diisopropylethylamine (4.40 g, 34.0 mmol), and (4-fluorophenyl)methanamine (3.97 g, 32.0 mmol). The reaction mixture was stirred at ambient temperature for 18 hours and N,N-dimethylformamide was removed in vacuo. The residue was dissolved in ethyl acetate (400 mL) and washed with saturated aqueous sodium bicarbonate (2×100 mL) and brine (100 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and the filtrate was concentrated in vacuo to afford the title compound as a yellowish solid in 80% yield (5.60 g): 1H NMR (300 MHz, CDCl3) δ 7.39-7.17 (m, 2H), 7.01 (t, J=8.3 Hz, 2H), 5.78 (br s, 1H), 5.34 (br s, 2H), 4.50 (d, J=5.6 Hz, 2H), 2.47 (s, 3H); MS (ES+) m/z 266.2 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid | 26.0 mmol, 4.20 g | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
reactant | 1-hydroxybenzotriazole | 69.0 mmol, 9.30 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 34.0 mmol, 6.60 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | diisopropylethylamine | 34.0 mmol, 4.40 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (4-fluorophenyl)methanamine | 32.0 mmol, 3.97 g | FC1=CC=C(C=C1)CN | C7H8FN
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 2-amino-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide | 80% yield | NC=1SC(=C(N1)C)C(=O)NCC1=CC=C(C=C1)F | C12H12FN3OS
